US08357711B2
Methyl 4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoate
To an ice cooled solution of N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine (Preparation 6, 9.0 g, 35.9 mmol, 1 eq) in THF (80 ml) was added 60% sodium hydride (2.15 g, 53.9 mmol, 1.5 eq) portionwise. The mixture was stirred for 30 minutes before the addition of methyl 4-(chlorosulfonyl)-2-fluorobenzoate (Preparation 13, 9.06 g, 35.9 mmol, 1 eq) then stirred for a further hour at room temperature. The reaction mixture was added to water (20 ml) and the THF evaporated in vacuo. The residue was diluted with water (200 ml), extracted into DCM (3×200 ml), dried over sodium sulphate, filtered and evaporated in vacuo to yield the title compound as an orange solid (17.1 g, 36.7 mmol).

reactant | N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | 35.9 mmol, 9.0 g, 1 eq | COC1=C(CNC=2SC=CN2)C=CC(=C1)OC | C12H14N2O2S
reactant | sodium hydride | 53.9 mmol, 2.15 g, 1.5 eq | [H-].[Na+]
reactant | methyl 4-(chlorosulfonyl)-2-fluorobenzoate | 35.9 mmol, 9.06 g, 1 eq | ClS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1)F | C8H6ClFO4S
reactant | water | 20 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Methyl 4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoate | 36.7 mmol, 17.1 g | COC1=C(CN(S(=O)(=O)C2=CC(=C(C(=O)OC)C=C2)F)C=2SC=CN2)C=CC(=C1)OC | C20H19FN2O6S2
